US07713979B2
Charge a 250 mL, single-neck, round-bottomed flask with (4S,5R)-4,5-diphenyloxazolidin-2-one (5.0 g, 21.0 mmol) and THF (300 mL). Stir the mixture at −78° C. and add dropwise BuLi (13.7 mL, 21.9 mmol). Stir the reaction mixture for 0.5 hours and then add pent-4-enoyl chloride (3.71 g, 31.3 mmol). Stir the reaction mixture one hour until TLC shows that the starting material has been consumed. Add water (100 mL) and extract the aqueous with CH2Cl2 (3×250 mL). Combine the organic layers and dry over Na2SO4. Concentrate and purify by chromatography (Silica gel) to afford (4S,5R)-3-Pent-4-enoyl-4,5-diphenyloxazolidin-2-one (4.49 g, 67%).

reactant | (4S,5R)-4,5-diphenyloxazolidin-2-one | 21.0 mmol, 5.0 g | C1(=CC=CC=C1)[C@@H]1NC(O[C@@H]1C1=CC=CC=C1)=O | C15H13NO2
reactant | BuLi | 21.9 mmol, 13.7 mL | [Li]CCCC
reactant | pent-4-enoyl chloride | 31.3 mmol, 3.71 g | C(CCC=C)(=O)Cl | C5H7ClO
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | (4S,5R)-3-Pent-4-enoyl-4,5-diphenyloxazolidin-2-one | 4.49 g, 67% | C(CCC=C)(=O)N1C(O[C@@H]([C@@H]1C1=CC=CC=C1)C1=CC=CC=C1)=O | C20H19NO3
